US04968676
E-(3-Methylstyryl) 4-nitrophenyl ketone
10 g of boric acid are added to a solution of 76 g (0.63 mole) of 3-methylbenzaldehyde and 104.5 g (0.63 mole) of 4-nitroacetophenone in 1 l of xylene, and the mixture is refluxed for 8 hours under a water separator. A further 5 g of boric acid are added, after which the mixture is boiled for a further 8 hours. This process is repeated until the theoretical amount of water has been separated off (2-3 times). The cooled reaction mixture is filtered under suction and the residue is washed with toluene and dried under reduced pressure to give 131 g (77% of theory) of a yellowish brown powder of melting point 130°-132° C.

reactant | boric acid | 10 g | B(O)(O)O | BH3O3
reactant | 3-methylbenzaldehyde | 0.63 mole, 76 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | 4-nitroacetophenone | 0.63 mole, 104.5 g | CC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H7NO3
reactant | boric acid | 5 g | B(O)(O)O | BH3O3
reactant | water | O | H2O
solvent | xylene | 1 l | C=1(C(=CC=CC1)C)C | C8H10
product | E-(3-Methylstyryl) 4-nitrophenyl ketone | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)\C=C\C1=CC(=CC=C1)C | C16H13NO3
